US09233977B2
Step 4: 3-(Methylsulfanyl)-5-(propan-2-yl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one
To a solution of 3-(methylsulfanyl)-5-(propan-2-yl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one (45 mg, 0.10 mmol) in MeOH (26 μL) at rt was added 4M HCl in MeOH (26 μL, 0.10 mmol). The solution was heated at 80° C. for 1 h. The resulting mixture was concentrated and purified by Gilson reverse phase chromatography to afford the title compound. 1H NMR (400 MHz, ppm, CDCl3) 7.60 (d, J=2.4 Hz, 1 H); 6.38 (d, J=2.4 Hz, 1 H); 5.00 (sep, J=6.8 Hz, 1 H); 3.40 (t, J=6.4 Hz, 2 H); 3.03 (t, J=6.4 Hz, 21-1); 2.60 (s, 3 H); 1.20 (s, 3 H); 1.18 (s, 3 H). HRMS (ES+) m/z 308.0884 [(M+H)+; calcd for C14H17N3OS2: 308.0886].

reactant | 3-(methylsulfanyl)-5-(propan-2-yl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | 0.10 mmol, 45 mg | CSC=1SC(=C2C1C(N(CC2)C(C)C)=O)C2=NN(C=C2)COCC[Si](C)(C)C | C20H31N3O2S2Si
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 26 μL | CO | CH4O
solvent | MeOH | 0.10 mmol, 26 μL | CO | CH4O
product | 3-(Methylsulfanyl)-5-(propan-2-yl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | CSC=1SC(=C2C1C(N(CC2)C(C)C)=O)C2=NNC=C2 | C14H17N3OS2
